US05665732
Step B: 6-Fluoro-3-methyl-1H-indazole
1-(2-Amino-4-fluorophenyl)ethanone (9.618 g, 62.9 mmol) was treated with concentrated hydrochloric acid (16 mL) and water (16 mL), and the resulting white suspension was cooled to -10° C. and treated with a solution of sodium nitrite (4.338 g, 62.9 mmol) in 10 mL H2O, maintaining the temperature below 0° C. The resulting solution was filtered directly into a rapidly stirred solution of SnCl2.2H2O (34 g in 200 mL H2O) and the resulting mixture was stirred for 1 h at 20° C., basified (32 g NaOH in 200 mL H2O) and extracted with EtOAc. The combined organic extracts were dried (MgSO4), concentrated and the residue purified by flash chromatography (25% EtOAc in hexane) to give the title compound (3.10 g, 33%) as a white solid; mp 116°-117° C. (from hexane); 1H NMR (360 MHz, CDCl3) δ12.89 (bs, 1H, NH), 7.62 (dd, J=8.8, 5.1 Hz, 1H, indazole), 7.09 (dd, J=9.1, 2.0 Hz, 1H, indazole), 6.93 (dt, J=9.1, 2.0 Hz, 1H, indazole), 2.60 (s, 3H, Me); MS (CI+) m/e 151 (M+H+); Anal. calcd for C8H7FN2 : C, 63.99, H, 4.70; N, 18.66. Found: C, 63.94; H, 4.72; N, 19.10.

reactant | 1-(2-Amino-4-fluorophenyl)ethanone | 62.9 mmol, 9.618 g | NC1=C(C=CC(=C1)F)C(C)=O | C8H8FNO
reactant | hydrochloric acid | 16 mL | Cl | ClH
reactant | sodium nitrite | 62.9 mmol, 4.338 g | N(=O)[O-].[Na+]
solvent | H2O | 10 mL | O | H2O
solvent | water | 16 mL | O | H2O
product | 6-Fluoro-3-methyl-1H-indazole | 3.10 g, 33% | FC1=CC=C2C(=NNC2=C1)C | C8H7FN2
